US06458810B1
A solution of 3-(4-amino-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine (1 g, 3.5 mmol) and methoxyacetyl chloride (0.38 g, 3.5 mmol) in tetrahydrofuran (20 mL) is heated at reflux for 1 hour. The solvent is removed in vacuo to give 3-[4- (2-methoxyacetylamino)-1,3-dioxoisoindolin-2-yl]-2,6-dioxo-5-acetoxypiperidine which is further purified by column chromatography.

reactant | 3-(4-amino-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine | 3.5 mmol, 1 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(C(C1)OC(C)=O)=O)=O)=O | C15H13N3O6
reactant | methoxyacetyl chloride | 3.5 mmol, 0.38 g | COCC(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-[4- (2-methoxyacetylamino)-1,3-dioxoisoindolin-2-yl]-2,6-dioxo-5-acetoxypiperidine | COCC(=O)NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(C(C1)OC(C)=O)=O)=O)=O | C18H17N3O8
